US05153352
Step E: 2-(2-(((1,1-Dimethylethyl)dimethylsilyl)oxy)ethyl)-3-(((1,1-dimethylethyl)dimethylsilyl)oxymethyl)-1-aminocyclobutane
2-(2-(((1,1-Dimethylethyl)dimethylsilyl)oxy)ethyl)-3-(((1,1-dimethylethyl)dimethyl-silyl)oxymethyl)-1-azidocyclobutane (980 mg, 2.45 mmol), prepared as described in Step D above, was dissolved in 20 mL of methanol and an excess of palladium on carbon was added to the solution under a nitrogen atmosphere. The reaction mixture was stirred at ambient temperature and atmospheric pressure under hydrogen for 0.5 h. The catalyst was removed by filtration and washed with 10 mL of methanol. The filtrate was concentrated in vacuo to give 850 mg (93%) yield of the title compound; MS DCI-NH3M/Z: 374 (M+H)+, 391 (M+NH4)+.

reactant | 2-(2-(((1,1-Dimethylethyl)dimethylsilyl)oxy)ethyl)-3-(((1,1-dimethylethyl)dimethyl-silyl)oxymethyl)-1-azidocyclobutane | 2.45 mmol, 980 mg | CC(C)(C)[Si](OCCC1C(CC1CO[Si](C)(C)C(C)(C)C)N=[N+]=[N-])(C)C | C19H41N3O2Si2
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-(2-(((1,1-Dimethylethyl)dimethylsilyl)oxy)ethyl)-3-(((1,1-dimethylethyl)dimethylsilyl)oxymethyl)-1-aminocyclobutane | CC(C)(C)[Si](OCCC1C(CC1CO[Si](C)(C)C(C)(C)C)N)(C)C | C19H43NO2Si2
